US04585772
(c) 6-(2-Fluoro-4-nitrophenyl)-2,3-dihydro-imidazo-[1,2-c]-quinazolin-5-one
1.1 g (25 mmol) of sodium hydride were added to a solution of 3.47 g (11.6 mmol) of 2-(2-(2-fluoro-4-nitrophenylamino)-phenyl)-2-imidazoline in 60 ml of absolute tetrahydrofuran, and the mixture was warmed to 50° C. until the evolution of hydrogen had ended. After the reaction mixture had been cooled to room temperature, 5.8 ml (60 mmol) of ethyl chloroformate in 10 ml of absolute tetrahydrofuran were added dropwise to it and it was warmed to 50° C. for 90 minutes. The reaction mixture was allowed to cool to room temperature, acidified with glacial acetic acid, diluted with water and extracted with dichloromethane. The organic phase was concentrated by evaporation, water was added to the residue, and the solution was adjusted to a pH of 1-2 with hydrochloric acid and was extracted with dichloromethane. The precipitate which occurred on addition of KHCO3 solution to the aqueous phase was filtered off under suction, washed with water and dried.

reactant | sodium hydride | 25 mmol, 1.1 g | [H-].[Na+]
reactant | 2-(2-(2-fluoro-4-nitrophenylamino)-phenyl)-2-imidazoline | 11.6 mmol, 3.47 g | FC1=C(C=CC(=C1)[N+](=O)[O-])NC1=C(C=CC=C1)C=1NCCN1 | C15H13FN4O2
reactant | hydrogen | [H][H] | H2
reactant | ethyl chloroformate | 60 mmol, 5.8 ml | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-(2-Fluoro-4-nitrophenyl)-2,3-dihydro-imidazo-[1,2-c]-quinazolin-5-one | FC1=C(C=CC(=C1)[N+](=O)[O-])N1C(N2C(C=3C=CC=CC13)=NCC2)=O | C16H11FN4O3
